US09303119B2
To this polymer liquid, a methylene chloride solution of p-t-butyl phenol (PTBP) (one obtained by dissolving 140 g of PTBP in 2.0 L of methylene chloride) and an aqueous sodium hydroxide solution of bisphenol A (BPA) (one obtained by dissolving 1012 g of BPA in an aqueous solution prepared by dissolving 577 g of NaOH and 2.0 g of sodium dithionite in 8.4 L of water) were added, and a polymerization reaction was conducted for 50 minutes.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | bisphenol A | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | p-t-butyl phenol | 2.0 L, 140 g | C(C)(C)(C)C1=CC=C(C=C1)O | C10H14O
